US07365085B2
d. N-(2-Chloro-3-trifluoromethylbenzyl)-2-(4-methoxyphenyl)propylamine
A solution of 2-(4-methoxyphenyl)propylamine (183 mg, 1.11 mmole) and 2-chloro-3-trifluoromethylbenzaldehyde (230 mg, 1.11 mmole) in 10 mL of MeOH was treated with a crystal of p-toluenesulfonic acid hydrate, and stirred for 30 minutes. The reaction was diluted with Et2O, and washed with aqueous NaHCO3. The extracts were dried, and the solvent removed. A solution of the residue in 10 mL of MeOH was cooled to 0° and treated with excess NaBH4. The reaction was warmed to 23° and stirred for 30 minutes. The reaction was diluted with H2O and extracted with Et2O. The extracts were washed with H2O, dried and the solvent removed, and gave the titled compound, 305 mg (77% yield). MS (ESI) 358 (MH+)

reactant | 2-(4-methoxyphenyl)propylamine | 1.11 mmole, 183 mg | COC1=CC=C(C=C1)C(CN)C | C10H15NO
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | 1.11 mmole, 230 mg | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | MeOH | 10 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | N-(2-Chloro-3-trifluoromethylbenzyl)-2-(4-methoxyphenyl)propylamine | 77% yield | ClC1=C(CNCC(C)C2=CC=C(C=C2)OC)C=CC=C1C(F)(F)F | C18H19ClF3NO
